US05275816
c) N-[3,4-bis(4-Methoxybenzyloxy)benzoyl]-N-methylhydrazine
3,4-bis-(4-Methoxybenzyloxy)benzoic acid (0.792 g, 2.0 mmol) was dissolved in dichloromethane (20 ml) and treated with N,N-diisopropylethylamine (0.35 ml, 2.0 mmol). The solution was cooled to -40° C. and treated with methanesulphonyl chloride (0.15 ml, 2.0 mmol). The mixture was allowed to warm to room temperature for 10 minutes and then re-cooled to -40° C. and added to a solution of methylhydrazine (0.215 ml, 4 mmol) in dichloromethane (10 ml) at -40° C. The mixture was allowed to warm to room temperature for 1.5 h and then evaporated to dryness under reduced pressure. The residue was dissolved in ethyl acetate which was washed with water and brine. Evaporation of the solvent gave the title compound (0.823 g, 94%); δH (CDCl3) 3.08 (3H, s), 3.74 (6H, s), 4.25 (2H, brs), 5.03 (4H, s), and 6.70- 7.40 (11H, m).

reactant | 3,4-bis-(4-Methoxybenzyloxy)benzoic acid | 2.0 mmol, 0.792 g | COC1=CC=C(COC=2C=C(C(=O)O)C=CC2OCC2=CC=C(C=C2)OC)C=C1 | C23H22O6
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.35 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulphonyl chloride | 2.0 mmol, 0.15 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylhydrazine | 4 mmol, 0.215 ml | CNN | CH6N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[3,4-bis(4-Methoxybenzyloxy)benzoyl]-N-methylhydrazine | 0.823 g, 94% | COC1=CC=C(COC=2C=C(C(=O)N(N)C)C=CC2OCC2=CC=C(C=C2)OC)C=C1 | C24H26N2O5
